US06846813B2
Methyl 3-[(dipropylamino)carbonyl]-5-ethylbenzoate (IX)
Ethylboronic acid (0.800 g, 10.8 mmol), dichlorobis(triphenylphosphine)-palladium(II) (0.252 g, 0.360 mmol), potassium carbonate (2.50 g, 18.0 mmol) and lithium chloride (0.151 g, 3.60 mmol) are added to a mixture of methyl 3-bromo-5-[(dipropylamino)carbonyl]benzoate (1.23 g, 3.60 mmol) in dry DMF (20 mL). The mixture is heated at 100 degrees C. for 18 hours. The mixture is then partitioned between ethyl acetate and water. The phases are separated and the ethyl acetate phase is washed with saline, dried over sodium sulfate and concentrated. The concentrate is column chromatographed (silica gel; ethyl acetate/hexanes, 15/85) to give the title compound, MS (ESI+) for C17H25NO3 m/z (M+H)+=292.2.

reactant | Ethylboronic acid | 10.8 mmol, 0.800 g | C(C)B(O)O | C2H7BO2
reactant | potassium carbonate | 18.0 mmol, 2.50 g | C([O-])([O-])=O.[K+].[K+]
reactant | lithium chloride | 3.60 mmol, 0.151 g | [Cl-].[Li+]
reactant | methyl 3-bromo-5-[(dipropylamino)carbonyl]benzoate | 3.60 mmol, 1.23 g | BrC=1C=C(C(=O)OC)C=C(C1)C(=O)N(CCC)CCC | C15H20BrNO3
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
catalyst | dichlorobis(triphenylphosphine)-palladium(II) | 0.360 mmol, 0.252 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | Methyl 3-[(dipropylamino)carbonyl]-5-ethylbenzoate | C(CC)N(C(=O)C=1C=C(C(=O)OC)C=C(C1)CC)CCC | C17H25NO3
